US07125896B2
b) 2-(Tetrahydrofuran-3-ylmethoxy)-5-bromopyridine
Prepared from 2,5-dibromopyridine and tetrahydrofuran-3-methanol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | tetrahydrofuran-3-methanol | O1CC(CC1)CO | C5H10O2
product | 2-(Tetrahydrofuran-3-ylmethoxy)-5-bromopyridine | O1CC(CC1)COC1=NC=C(C=C1)Br | C10H12BrNO2
